US07737136B2
trans-2,2,2-trifluoro-N-[2,3,4,14b-tetrahydro-7-[(phenylmethyl)amino]-1H-dibenzo[b,f]pyrido[1,2-d][1,4]oxazepin-1-yl]acetamide (Structure 50 of Scheme XII)
To a solution of trans-N-(7-bromo-2,3,4,14b-tetrahydro-1H-dibenzo[b,f]pyrido[1,2-d][1,4]-oxazepin-1-yl)-2,2,2-trifluoroacetamide (0.5 g, 1.1 mmol) in DME (16 mL), Pd2(dba)3 (12.5 mg, 13.5 μmol), 2-(di-t-butyl-phosphino)biphenyl (25 mg, 80 μmol), sodium-tert-butoxide (218 mg, 2.3 mmol) and benzylamine (243 mg, 2.3 mmol) were added. The resulting reaction mixture was heated to 75° C. and stirred at this temperature for 48 h. The reaction mixture was quenched with sat NaHCO3 (aq) and extracted with ethyl acetate. The organic layer was washed with water and brine, dried (Na2SO4) and evaporated. The crude product was chromatographed with heptane/ethyl acetate 8:2 and purified with HPLC to afford the title compound (21 mg, 32%). Data: 1H-NMR (400 MHz, DMSO) 1.54-2.02 (m, 4H), 2.95 (t, J=9.2, 1H), 3.68 (d, J=14.0, 1H), 4.02 (d, J=10.0, 1H), 4.17 (d, J=6.0, 2H), 4.37 (m, 1H), 5.90-7.33 (12 ArH, 1 NH), 9.11 (d, J=10.0, 1H). (m/z)=468 (M+H)+.

reactant | trans-N-(7-bromo-2,3,4,14b-tetrahydro-1H-dibenzo[b,f]pyrido[1,2-d][1,4]-oxazepin-1-yl)-2,2,2-trifluoroacetamide | 1.1 mmol, 0.5 g | BrC1=CC2=C(OC3=C([C@H]4N2CCC[C@H]4NC(C(F)(F)F)=O)C=CC=C3)C=C1 | C19H16BrF3N2O2
reactant | 2-(di-t-butyl-phosphino)biphenyl | 80 μmol, 25 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
reactant | sodium-tert-butoxide | 2.3 mmol, 218 mg | CC(C)([O-])C.[Na+]
reactant | benzylamine | 2.3 mmol, 243 mg | C(C1=CC=CC=C1)N | C7H9N
solvent | DME | 16 mL | COCCOC | C4H10O2
catalyst | Pd2(dba)3 | 13.5 μmol, 12.5 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | trans-2,2,2-trifluoro-N-[2,3,4,14b-tetrahydro-7-[(phenylmethyl)amino]-1H-dibenzo[b,f]pyrido[1,2-d][1,4]oxazepin-1-yl]acetamide | 21 mg, 32% | FC(C(=O)N[C@@H]1CCCN2C3=C(OC4=C([C@@H]21)C=CC=C4)C=CC(=C3)NCC3=CC=CC=C3)(F)F | C26H24F3N3O2
